US07371869B2
To a solution of 2-{(S)-2-[2-benzyloxycarbonylamino-2-(4-methoxy-3-methyl-phenyl)-acetylamino]-3-phenyl-propionylamino}-thiazole-4-carboxylic acid methyl ester (1.0 g, 1.62 mmol) in methanol (40 mL) was added formic acid (4 g, 87 mmol). The solution was then degassed with nitrogen for 10 minute, followed by the addition of palladium black (1 g, 9.4 mmol). The reaction mixture was stirred at room temperature under nitrogen for 0.5 hours. The reaction mixture was filtered through a short pad of celite and the filtrate was concentrated to dryness. The residue was neutralized with saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate. The combined organic extracts were dried over sodium sulfate and concentrated to give crude 2-{(S)-2-[2-amino-2-(4-methoxy-3-methyl-phenyl)-acetylamino]-3-phenyl-propionylamino}-thiazole-4-carboxylic acid methyl ester as an off white foam (0.73 g, 93%).

reactant | 2-{(S)-2-[2-benzyloxycarbonylamino-2-(4-methoxy-3-methyl-phenyl)-acetylamino]-3-phenyl-propionylamino}-thiazole-4-carboxylic acid methyl ester | 1.62 mmol, 1.0 g | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=CC=C1)NC(C(C1=CC(=C(C=C1)OC)C)NC(=O)OCC1=CC=CC=C1)=O)=O | C32H32N4O7S
reactant | formic acid | 87 mmol, 4 g | C(=O)O | CH2O2
solvent | methanol | 40 mL | CO | CH4O
catalyst | palladium black | 9.4 mmol, 1 g | [Pd] | Pd
product | 2-{(S)-2-[2-amino-2-(4-methoxy-3-methyl-phenyl)-acetylamino]-3-phenyl-propionylamino}-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=CC=C1)NC(C(C1=CC(=C(C=C1)OC)C)N)=O)=O | C24H26N4O5S
